US04898854
A stirred solution of 5.3 ml of bis-(diethylphosphono)methane in 30 ml of anhydrous tetrahydrofuran (THF) under nitrogen is cooled to -78° and 8.5 ml of 2.5M butyl lithium is added dropwise. After stirring 5 minutes a solution of 4.64 g of ethyl 1-ethoxycarbonyl-3-oxopyrrolidine-2-carboxylate [J. Am. Chem. Soc. 86, 5297 (1964)]in 30 ml dry THF is added dropwise rapidly. The solution is heated at reflux for 18 hours, cooled to room temperature and concentrated; 40 ml of 1N hydrochloric acid is added and the mixture is extracted with 100 ml of methylene chloride. The organic fraction is washed with 25 ml water, dried over Na2SO4, filtered and concentrated. Purification by flash chromatography using ethyl acetate as solvent yields ethyl 1-ethoxycarbonyl-3-(diethylphosphono- methyl)-2,5-dihydropyrrole-2-carboxylate.

reactant | bis-(diethylphosphono)methane | 5.3 ml | C(C)OP(=O)(OCC)CP(=O)(OCC)OCC | C9H22O6P2
reactant | butyl lithium | 2.5M, 8.5 ml | C(CCC)[Li]
reactant | ethyl 1-ethoxycarbonyl-3-oxopyrrolidine-2-carboxylate | 4.64 g | C(C)OC(=O)N1C(C(CC1)=O)C(=O)OCC | C10H15NO5
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | THF | 30 ml | O1CCCC1 | C4H8O
product | ethyl 1-ethoxycarbonyl-3-(diethylphosphono- methyl)-2,5-dihydropyrrole-2-carboxylate | C(C)OC(=O)N1C(C(=CC1)CP(=O)(OCC)OCC)C(=O)OCC | C15H26NO7P
